************************************************************
* Auto-generated from MiniTNtk
* source subckt  : CLASS_IDX_38
* class idx      : 38
* truth table    : 00101001
* diff           : -3
* Pin order fixed to: A B C VDD VSS Z
* Device models/params rewritten to ASAP7-style unified form
************************************************************
.SUBCKT THREEINPUT_MINITNTK_TT00101001 A B C VDD VSS Z
M0 Z !a pN3 VDD pmos_rvt w=46.0n l=16n nfin=2
M1 pN3 B pN4 VDD pmos_rvt w=46.0n l=16n nfin=2
M2 pN4 C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M3 Z A pN1 VDD pmos_rvt w=46.0n l=16n nfin=2
M4 pN1 !b pN4 VDD pmos_rvt w=46.0n l=16n nfin=2
M5 pN2 !c VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M6 pN3 !b pN2 VDD pmos_rvt w=46.0n l=16n nfin=2
M7 !a A VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M8 !b B VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M9 !c C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
M10 !c C VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M11 nN3 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M12 nN2 C nN3 VSS nmos_rvt w=46.0n l=16n nfin=2
M13 Z A nN1 VSS nmos_rvt w=46.0n l=16n nfin=2
M14 nN2 !b VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M15 nN1 !c nN3 VSS nmos_rvt w=46.0n l=16n nfin=2
M16 Z !a nN2 VSS nmos_rvt w=46.0n l=16n nfin=2
M17 !a A VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M18 !b B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
M19 Z !b nN3 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
